US06277502B1
27.6 ml of a 1.6 N butyllithium solution are added dropwise to a solution of 6.4 ml of trimethyl phosphonoacetate in 50 ml of dry tetrahydrofuran at 0° C. in the course of 10 minutes. Stirring is carried out for 1.5 hours at 0° C. and a solution of 10.3 g of crude 4-[(trans-4-heptylcyclohexyl)methoxy]benzaldehyde in 50 ml of dry tetrahydrofuran is then added dropwise in the course of 5 minutes at the same temperature. The mixture is then slowly warmed up to room temperature and is allowed to react for 15 hours. The reaction mixture is then partitioned between methylene chloride and 1 N hydrochloric acid and the organic phase is washed with saturated sodium bicarbonate solution and water, dried over magnesium sulfate and evaporated down. Chromatography over silica gel using ethyl acetate/hexane (1:9) and subsequent repeated crystallization from hexane/ethyl acetate give methyl 4-[(trans-4-heptylcyclohexyl)methoxy]cinnamate.

reactant | butyllithium | 1.6 N | C(CCC)[Li]
reactant | trimethyl phosphonoacetate | 6.4 ml | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | 4-[(trans-4-heptylcyclohexyl)methoxy]benzaldehyde | 10.3 g | C(CCCCCC)[C@@H]1CC[C@H](CC1)COC1=CC=C(C=O)C=C1 | C21H32O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | methyl 4-[(trans-4-heptylcyclohexyl)methoxy]cinnamate | C(CCCCCC)[C@@H]1CC[C@H](CC1)COC1=CC=C(C=CC(=O)OC)C=C1 | C24H36O3
